US07915411B2
1-(4-Methoxy-phenoxy)-4-methyl-2-nitro-benzene
4-Methoxy-phenol was reacted with 1-fluoro-4-methyl-2-nitrobenzene according to the procedure from Example 122a substituting 4-methoxy-phenol for hydroquinone to provide the title compound.

reactant | 4-Methoxy-phenol | COC1=CC=C(C=C1)O | C7H8O2
reactant | 1-fluoro-4-methyl-2-nitrobenzene | FC1=C(C=C(C=C1)C)[N+](=O)[O-] | C7H6FNO2
reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
product | 1-(4-Methoxy-phenoxy)-4-methyl-2-nitro-benzene | COC1=CC=C(OC2=C(C=C(C=C2)C)[N+](=O)[O-])C=C1 | C14H13NO4
